US04115407
A. 6-Methoxy-4-chromanone Oxime
A solution of 140 g (2.02 mole) of hydroxylamine hydrochloride in 630 ml of water, contained in a 3-l Erlenmeyer flask, was treated with 560 ml of 10% NaOH, and a solution of 250 g (1.40 mole) of 6-methoxy-4-chromanone in 560 ml of ethanol, all with rapid stirring. The reaction mixture was heated to boiling over 15 min., and continued to boil for 5 min. The mixture was stirred rapidly at room temperature for 3 hrs., refrigerated overnight and filtered. A white crystalline solid was washed with 1-l of water and air dried for 3 days; m.p. 120°-121°, Yield: 266 g (99%).

reactant | hydroxylamine hydrochloride | 2.02 mole, 140 g | Cl.NO
reactant | NaOH | 560 ml | [OH-].[Na+]
reactant | 6-methoxy-4-chromanone | 1.40 mole, 250 g | COC=1C=C2C(CCOC2=CC1)=O | C10H10O3
solvent | water | 630 ml | O | H2O
solvent | ethanol | 560 ml | C(C)O | C2H6O
product | 6-Methoxy-4-chromanone Oxime | COC=1C=C2C(CCOC2=CC1)=NO | C10H11NO3
